US06001331
A mixture of 3-benzyl-2-methylbenzothiazol-3-ium bromide (0.30 g, 0.94 mmol) and 4-dimethylaminobenzaldehyde (0.21 g, 1.41 mmol) in 5 mL of acetic anhydride was heated under nitrogen. Upon refluxing, the mixture turned red and all solids appeared to be in solution. The solution was refluxed for 15 minutes, cooled, and filtered. The solid was washed with ethyl acetate to give (E)-2-[2-(4-dimethylaminophenyl)vinyl]-3-benzylbenzothiazol-3-ium bromide as a purple solid, mp 247-248° C., decomposed (dec).

reactant | 3-benzyl-2-methylbenzothiazol-3-ium bromide | 0.94 mmol, 0.30 g | [Br-].C(C1=CC=CC=C1)[N+]1=C(SC2=C1C=CC=C2)C
reactant | 4-dimethylaminobenzaldehyde | 1.41 mmol, 0.21 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-2-[2-(4-dimethylaminophenyl)vinyl]-3-benzylbenzothiazol-3-ium bromide | [Br-].CN(C1=CC=C(C=C1)/C=C/C=1SC2=C([N+]1CC1=CC=CC=C1)C=CC=C2)C | InChI=1S/C24H23N2S.BrH/c1-25(2)21-15-12-19(13-16-21)14-17-24-26(18-20-8-4-3-5-9-20)22-10-6-7-11-23(22)27-24;/h3-17H,18H2,1-2H3;1H/q+1;/p-1
